US08791132B2
Methanesulfonic acid 2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethylester (1.0 g, 3.5 mmol) was dissolved in 70% cyclopropylamine in water (50 mL) and heated at 90° C. for 18 h. The reaction mixture was concentrated to obtain the crude product that was purified by reverse phase chromatography to obtain 300 mg of cyclopropyl-[2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethyl]-amine. 1H NMR (CDCl3, Free base) δ (ppm): 8.52 (d, 2H), 7.18 (s, 1H), 7.14 (d, 1H), 7.13 (d, 2H), 6.99 (d, 1H), 4.22 (m, 2H), 3.98 (dd, 1H), 3.76 (d, 1H), 3.70 (d, 1H), 2.85 (m, 1H), 2.74 (m, 2H), 2.55 (s, 3H), 2.44 (s, 3H), 2.36 (m, 2H), 0.33 (m, 2H), 0.23 (m, 2H). Separation by chiral HPLC provided enantiomers II-260a-b.

reactant | Methanesulfonic acid 2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethylester | 3.5 mmol, 1.0 g | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C2=CC=NC=C2)OS(=O)(=O)C)CC1 | C21H25N3O3S
reactant | cyclopropylamine | C1(CC1)N | C3H7N
solvent | water | 50 mL | O | H2O
product | cyclopropyl-[2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethyl]-amine | 300 mg | C1(CC1)NC(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)C2=CC=NC=C2 | C23H28N4
